US08304557B2
N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl) oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (3.20 g, 5.82 mmol), trifluoroacetic anhydride (20 mL) and dichloromethane (30 mL) was stirred at room temperature for 4 hr. The reaction solution was concentrated under reduced pressure, ethanol (30 mL), water (15 mL) and 8N aqueous sodium hydroxide solution (15 mL) were added to the residue, and the mixture was stirred at room temperature for 60 hr. The reaction solution was concentrated under reduced pressure and ethyl acetate was added to the residue. The mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with diethyl ether to give the title compound (1.22 g, 56%) as a pale-brown solid.

reactant | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 5.82 mmol, 3.20 g | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=C(C1)C)NC(=O)C1=CC(=NN1C)C)=O | C27H28N6O5S
reactant | trifluoroacetic anhydride | 20 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl) oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.22 g, 56% | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C20H20N6O2
